US03932465
A suspension of 0.456 g of 3-(5-methoxycarbonylfurfuryl)-7β-phenylacetylamino-ceph- 3-em-4-carboxylic acid in 30 ml of absolute methylene chloride is stirred for 30 minutes at 30° with 0.89 ml of absolute pyridine and 1.5 ml of trimethylchlorosilane. The resulting clear yellow solution is treated with 1.08 ml of pyridine and cooled to below -20°, then 8.9 ml of an 8% phosphorous pentachloride solution in methylene chloride is added dropwise and the solution is stirred for 40 minutes at a temperature of -12°. The brown solution is cooled again to below -20° and treated with 12.1 ml of absolute methanol. The mixture is allowed to react for 30 minutes at room temperature, whereupon the solution largely loses its colour. Upon addition of 2.5 ml of 25% aqueous formic acid, the pH of the solution is adjusted to 2.0 with 2.6 ml of triethylamine. The resulting suspension is further stirred for 30 minutes at room temperature. The pH is raised to 3.5 by the further addition of 9.6 ml of triethylamine. The suspension is left to stand for 1 hour at 0°; the fine, rather stimy precipitate is filtered off, washed with methanol, methylene chloride and diethyl ether and dried under a high vacuum. The 7β-amino-3-(5-methoxycarbonyl-furfuryl)-ceph-3-em-4-carboxylic acid is obtained in the form of a yellowish, microcrystalline powder. Additional, somewhat less pure material can be isolated by digesting the evaporated mother liquors and rinsing liquors with methylene chloride; ultraviolet absorption spectrum (in 0.1 N aqueous sodium hydrogen carbonate solution): λmax = 270 mμ (ε = 21400) and λmin = 234 mμ (ε = 8200); infrared absorption spectrum (in mineral oil): characteristic bands at 3,13μ, 3,83μ, 4,24μ, 5,54μ, 5,77μ, 6,17μ, 6,54μ, 6,58μ, (shoulder), 7.08μ, 7,39μ, 7,63μ, 7,72μ, 8,38μ, 8,84μ, 9,49μ, 9,78μ, 10,12μ, 12,62μ and 13,21μ.

reactant | 3-(5-methoxycarbonylfurfuryl)-7β-phenylacetylamino-ceph- 3-em-4-carboxylic acid | 0.456 g | COC(=O)C1=CC=C(CC=2CS[C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)O1 | C22H20N2O7S
reactant | pyridine | 0.89 ml | N1=CC=CC=C1 | C5H5N
reactant | trimethylchlorosilane | 1.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | pyridine | 1.08 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 9.6 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | formic acid | 2.5 ml | C(=O)O | CH2O2
solvent | methanol | 12.1 ml | CO | CH4O
product | 7β-amino-3-(5-methoxycarbonyl-furfuryl)-ceph-3-em-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=C(CS2)CC2=CC=C(O2)C(=O)OC)C(=O)O)C1=O | C14H14N2O6S
